US07622466B2
[5-(1-Isopropyl-piperidin-4-yloxy)-1H-pyrrolo[2,3-b]pyridin-2-yl]-pyrrolidin-1-yl-methanone
The title compound was synthesized in analogy to example 9, intermediate a), from lithium 1-tert-butoxycarbonyl-5-(1-isopropyl-piperidin-4-yloxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylate, O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate, pyrrolidine and N,N-diisopropylethylamine in DMF to give the desired product as a light yellow solid (33%).

reactant | lithium 1-tert-butoxycarbonyl-5-(1-isopropyl-piperidin-4-yloxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylate | C(C)(C)(C)OC(=O)N1C(=CC=2C1=NC=C(C2)OC2CCN(CC2)C(C)C)C(=O)[O-].[Li+]
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | [5-(1-Isopropyl-piperidin-4-yloxy)-1H-pyrrolo[2,3-b]pyridin-2-yl]-pyrrolidin-1-yl-methanone | 33% | C(C)(C)N1CCC(CC1)OC=1C=C2C(=NC1)NC(=C2)C(=O)N2CCCC2 | C20H28N4O2
